US07932272B2
C-(5-(3-Benzyloxy-phenoxy)-thiophen-2-yl)-methylamine
Next, to a solution of lithium aluminum hydride (27 mg, 0.716 mmol) in tetrahydrofuran (2.0 mL) was added a solution of 5-(3-benzyloxy-phenoxy)-thiophene-2-carbonitrile obtained above (110 mg, 0.358 mmol) in tetrahydrofuran (1 mL), and the solution was stirred at room temperature for 3 hours. Water was added to the reaction solution, which was then extracted with ethyl acetate, dried over anhydrous magnesium sulfate, and the solvent was evaporated to obtain the title compound (80 mg, 72%) as a red solid. This compound was used in the next reaction without purification.

reactant | lithium aluminum hydride | 0.716 mmol, 27 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 5-(3-benzyloxy-phenoxy)-thiophene-2-carbonitrile | C(C1=CC=CC=C1)OC=1C=C(OC2=CC=C(S2)C#N)C=CC1 | C18H13NO2S
reactant | Water | O | H2O
solvent | tetrahydrofuran | 2.0 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | C-(5-(3-Benzyloxy-phenoxy)-thiophen-2-yl)-methylamine | 80 mg, 72% | C(C1=CC=CC=C1)OC=1C=C(OC2=CC=C(S2)CN)C=CC1 | C18H17NO2S
